US04997840
Potassium carbonate (19 g) was added to a stirred suspension of benzoic acid (34 g) in water (600 ml) and the mixture was warmed gently on a steam bath. After 15 minutes, 2-bromo-2'-nitroacetophenone (68 g) and industrial methylated spirit (1 1) were added. The resultant mixture was heated under reflux for 2 hours, stirred without external heating for 1 0 minutes and then rapidly cooled to 0°-5° in an ice/salt bath with agitation. The mixture was kept at this temperature for 90 minutes and the product was collected by filtration and washed with water to give the novel compound 2-(2-nitrophenyl)-2-oxoethyl benzoate, m.p. 77-80°.

reactant | Potassium carbonate | 19 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzoic acid | 34 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | 2-bromo-2'-nitroacetophenone | 68 g | BrCC(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C8H6BrNO3
solvent | water | 600 ml | O | H2O
product | 2-(2-nitrophenyl)-2-oxoethyl benzoate | C(C1=CC=CC=C1)(=O)OCC(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C15H11NO5
